US05719141
i) Methyl 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanoate
2.40 g of di-tert-butyl dicarbonate are added to a mixture of 2.63 g of methyl 2(S)-amino-4(S)-methyl-6-triisopropylsilyloxyhexanoate in 11 ml of dioxane and 5.5 ml of water at 0° C., while stirring. The mixture is then allowed to warm to room temperature and stirring is continued overnight. After the dioxane has been removed in vacuo, the aqueous phase which remains is brought to pH=2 by addition of 1M potassium hydrogen sulfate solution and extracted with ethyl acetate. The organic phase is washed with a 5% sodium bicarbonate solution and with saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product is purified by FC over 400 g of silica gel (eluting agent gradient from J to L). This gives the title compound: Rf (C)=0.63.

reactant | di-tert-butyl dicarbonate | 2.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 2(S)-amino-4(S)-methyl-6-triisopropylsilyloxyhexanoate | 2.63 g | N[C@H](C(=O)OC)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C17H37NO3Si
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
solvent | water | 5.5 ml | O | H2O
product | Methyl 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C22H45NO5Si
